US07612114B2
6-(4-Methoxy-2-propylaminophenyl)-5,6,7,8-tetrahydronaphthalen-2-ol
Synthesized from 6-(2-amino-4-methoxyphenyl)-5,6,7,8-tetrahydronaphthalen-2-ol (500 mg) and propionic anhydride (1 ml) according to an analogous synthetic method to Example 36, the title compound (270 mg) was obtained.

reactant | 6-(2-amino-4-methoxyphenyl)-5,6,7,8-tetrahydronaphthalen-2-ol | 500 mg | NC1=C(C=CC(=C1)OC)C1CC=2C=CC(=CC2CC1)O | C17H19NO2
reactant | propionic anhydride | 1 ml | C(CC)(=O)OC(CC)=O | C6H10O3
product | 6-(4-Methoxy-2-propylaminophenyl)-5,6,7,8-tetrahydronaphthalen-2-ol | 270 mg | COC1=CC(=C(C=C1)C1CC=2C=CC(=CC2CC1)O)NCCC | C20H25NO2
